US09428465B2
N-octyl-2,4-dioxo-5-(trifluoromethyl)pyrimidine-1-carboxamide
The title compound was obtained according to the procedure described for the synthesis of Example 1, starting from 5-(trifluoromethyl) uracil (0.10 g, 0.55 mmol); 3.0 equivalents of octyl isocyanate were used herein. The crude was purified by column chromatography using a Teledyne ISCO apparatus (gradient from cyclohexane:EtOAc 70:30 to cyclohexane:EtOAc 60:40) and then washed with n-heptane to afford the title compound (0.04 g, 22%) as a white powder. 1H NMR (400 MHz, CDCl3) δ 0.88 (d, J=6.8 Hz, 3H), 1.18-1.44 (m, 10H), 1.53-1.70 (m, 2H), 3.41 (td, J=7.1, 5.5 Hz, 2H), 8.90-8.97 (m, 3H). 13C NMR (101 MHz, CDCl3) δ 14.20, 22.75, 26.92, 29.20, 29.26, 31.89, 41.80, 121.16 (q, J=268.7 Hz), 139.73, 148.25, 150.83, 156.86, MS (ESI) m/z 334 [M-H]+.

reactant | 5-(trifluoromethyl) uracil | 0.55 mmol, 0.10 g | FC(C=1C(NC(NC1)=O)=O)(F)F | C5H3F3N2O2
reactant | octyl isocyanate | 3.0 equivalents | C(CCCCCCC)N=C=O | C9H17NO
product | N-octyl-2,4-dioxo-5-(trifluoromethyl)pyrimidine-1-carboxamide | 0.04 g, 22% | C(CCCCCCC)NC(=O)N1C(NC(C(=C1)C(F)(F)F)=O)=O | C14H20F3N3O3
